US07470679B2
(S)-dimethyl 2-((7-methyl-4-(chloromethyl)-1H-indazol-5-yl)methyl)succinate
(S)-dimethyl 2-((7-methyl-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate (180 mg, 0.56 mmol) was dissolved in dichloromethane (4.0 mL). 2M Thionyl chloride in dichloromethane (4.0 mL, 8.0 mmol) was added to the mixture. Reaction stirred at room temperature for 2.5 hours. Mixture was concentrated. Residue was treated with toluene and then concentrated by roto-vap. Residue was dissolved in dichloromethane and then concentrated to dryness. Title compound was obtained as amber solid in 99% yield. MS m/e (M+H)+=339.1.

reactant | (S)-dimethyl 2-((7-methyl-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate | 0.56 mmol, 180 mg | CC=1C=C(C(=C2C=NNC12)CO)C[C@H](C(=O)OC)CC(=O)OC | C16H20N2O5
reactant | Thionyl chloride | 2M | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8.0 mmol, 4.0 mL | ClCCl | CH2Cl2
product | (S)-dimethyl 2-((7-methyl-4-(chloromethyl)-1H-indazol-5-yl)methyl)succinate | 99% yield | CC=1C=C(C(=C2C=NNC12)CCl)C[C@H](C(=O)OC)CC(=O)OC | C16H19ClN2O4
